US07700633B2
B. 2-Benzyloxy-6-{(E)-4-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-but-3-enyloxy}-N,N-dimethylbenzamide
To a microwave vial is added 5-(3-benzyloxy-7-bromonaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (36 mg, 0.082 mmol), 2-benzyloxy-6-but-3-enyloxy-N,N-dimethylbenzamide (53 mg, 0.163 mmol), Pd(OAc)2 (5 mg, 0.021 mmol) and 2-(di-t-butylphosphino)biphenyl (6 mg, 0.021 mmol). The mixture is diluted with acetonitrile (2 mL) and triethylamine (0.023 mL, 0.163 mmol). This is stirred in a microwave for 30 min at 100° C. The reaction mixture is filtered, acidified with 1 N HCl solution and extracted with EtOAc. The organic layer is concentrated and used directly in the next step.

reactant | 5-(3-benzyloxy-7-bromonaphthalen-2-yl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.082 mmol, 36 mg | C(C1=CC=CC=C1)OC=1C(=CC2=CC(=CC=C2C1)Br)N1CC(NS1(=O)=O)=O | C19H15BrN2O4S
reactant | 2-benzyloxy-6-but-3-enyloxy-N,N-dimethylbenzamide | 0.163 mmol, 53 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)C)C(=CC=C1)OCCC=C | C20H23NO3
reactant | 2-(di-t-butylphosphino)biphenyl | 0.021 mmol, 6 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | triethylamine | 0.163 mmol, 0.023 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.021 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Benzyloxy-6-{(E)-4-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-but-3-enyloxy}-N,N-dimethylbenzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)C)C(=CC=C1)OCC\C=C\C1=CC2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)N1S(NC(C1)=O)(=O)=O | C39H37N3O7S
